US09353107B2
Step-ii: tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate
Using similar reaction conditions as described in step-ii of example-82, tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (250 mg, 0.333 mmol) was reduced with palladium hydroxide (250 mg) in ethyl acetate/ethanol 10/10 mL to afford 200 mg (80% yield) of the titled compound. MS: m/z=752.9 (M+1).

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.333 mmol, 250 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)S(=O)(=O)C2=CC=C(C)C=C2)C2=CCN(CC2)C(=O)OC(C)(C)C | C42H41F2N5O4S
solvent | 1-(3-nitrobenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [N+](=O)([O-])C=1C=C(CN2N=CC(=C2)B2OC(C(O2)(C)C)(C)C)C=CC1 | C16H20BN3O4
catalyst | palladium hydroxide | 250 mg | [OH-].[Pd+2].[OH-]
product | tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 200 mg, 80% yield | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)S(=O)(=O)C2=CC=C(C)C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C42H43F2N5O4S
